US06303593B1
4-Hydroxy-4-(3-phenylpropyl)piperidine
A mixture of 3.3 g (10.7 mmol) of 1-benzyl-4-hydroxy-4-(3-phenylpropyl)piperidine and 0.5 g of Pd(OH)2 (Pearlman's catalyst) in 80 mL of MeOH was hydrogenated at 50 psi for 24 h. The reaction mixture was filtered through a thin pad of celite and concentrated to give the title compound.

reactant | 1-benzyl-4-hydroxy-4-(3-phenylpropyl)piperidine | 10.7 mmol, 3.3 g | C(C1=CC=CC=C1)N1CCC(CC1)(CCCC1=CC=CC=C1)O | C21H27NO
solvent | MeOH | 80 mL | CO | CH4O
catalyst | Pd(OH)2 | 0.5 g | [OH-].[OH-].[Pd+2]
product | 4-Hydroxy-4-(3-phenylpropyl)piperidine | OC1(CCNCC1)CCCC1=CC=CC=C1 | C14H21NO
